US05250517
70 mg (0.1 mmol) of ethyl 1-[(R)-3-[[(S)-1-[[(1S,2S,4S)-1-(cyclohexylmethyl)-2-hydroxy-4-isopropyl-5-hexenyl]carbamoyl]-2-imidazol-4-ylethyl]carbamoyl]-4-phenylbutyryl]-4-piperidinecarboxylate were suspended in 1N sodium hydroxide solution in a 9:1 mixture of methanol and water and stirred at room temperature for 3 hours. Thereafter, the solvent was evaporated and the residue was recrystallized from methanol/methylene chloride/hexane, to obtain 1-[(R)-3-[[(S)-1-[[(1S,2S,4S)-1-(cyclohexylmethyl)-2-hydroxy-4-isopropyl-5-hexenyl]carbamoyl]-2-imidazol-4-ylethyl]carbamoyl]-4-phenylbutyryl]-4-piperidinecarboxylic acid as white crystals, melting point 169°.

reactant | ethyl 1-[(R)-3-[[(S)-1-[[(1S,2S,4S)-1-(cyclohexylmethyl)-2-hydroxy-4-isopropyl-5-hexenyl]carbamoyl]-2-imidazol-4-ylethyl]carbamoyl]-4-phenylbutyryl]-4-piperidinecarboxylate | 0.1 mmol, 70 mg | C1(CCCCC1)C[C@@H]([C@H](C[C@H](C=C)C(C)C)O)NC(=O)[C@H](CC=1N=CNC1)NC(=O)[C@@H](CC(=O)N1CCC(CC1)C(=O)OCC)CC1=CC=CC=C1 | C41H61N5O6
reactant | methanol | CO | CH4O
reactant | water | O | H2O
solvent | sodium hydroxide | 1N | [OH-].[Na+]
product | 1-[(R)-3-[[(S)-1-[[(1S,2S,4S)-1-(cyclohexylmethyl)-2-hydroxy-4-isopropyl-5-hexenyl]carbamoyl]-2-imidazol-4-ylethyl]carbamoyl]-4-phenylbutyryl]-4-piperidinecarboxylic acid | C1(CCCCC1)C[C@@H]([C@H](C[C@H](C=C)C(C)C)O)NC(=O)[C@H](CC=1N=CNC1)NC(=O)[C@@H](CC(=O)N1CCC(CC1)C(=O)O)CC1=CC=CC=C1 | C39H57N5O6
